US04293557
1.59 g of 3-[3-(1-piperidinylmethyl)phenoxy]propylamine and 536 mg of hydroxyacetic acid were heated at 200° C. for 2 hours. The reaction mixture was cooled, and water was added. The mixture was alkalized with aqueous ammonia, and extracted with chloroform. The extract was dried over anhydrous sodium sulfate, and the solvent was distilled off to afford 1.86 g of N-[3-[3-(1-piperidinylmethyl)phenoxy]propyl]hydroxyacetamide.

reactant | 3-[3-(1-piperidinylmethyl)phenoxy]propylamine | 1.59 g | N1(CCCCC1)CC=1C=C(OCCCN)C=CC1 | C15H24N2O
reactant | hydroxyacetic acid | 536 mg | OCC(=O)O | C2H4O3
reactant | ammonia | N | H3N
solvent | water | O | H2O
product | N-[3-[3-(1-piperidinylmethyl)phenoxy]propyl]hydroxyacetamide | 1.86 g | N1(CCCCC1)CC=1C=C(OCCCNC(CO)=O)C=CC1 | C17H26N2O3
